Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7][C:8]([H:9])=[C:10]([H:11])[H:12]>>[C:10]([H:11])[H:12].[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]#[C:8][H:9],3.00554944548
[H:1][C:2]=[C:3]([O:4][C:5]([H:6])([H:7])[O:8][H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]=[C:3]([O:4][C:5]([H:6])([H:7])[O:8])[C:10]([H:11])([H:12])[H:13].[H:9],4.41817870214
[H:1][O:2][C:3]([H:4])[C:6]([O:7][H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:5]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([O:7][H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-4.1794635212300015
[C:12]([H:13])([H:14])[H:15].[H:1][C:2][O:3][C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11]>>[H:1][C:2]([O:3][C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-4.6422750744800005
[H:1][O:2][C:3][O:4][C:5]([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[H:1][O:2][C:3][O:4][C:5][H:6],4.222511605119999
[C:3]([C:4]([H:5])([H:6])[H:15])[H:17].[H:1][C:2]([C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13])([C:14])[H:16]>>[H:1]/[C:2](=[C:3]\[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17],-7.03217699857
[C:6]([H:7])[H:8].[H:1][C:2]=[C:3]([H:4])[C:5][C:9]([H:10])([H:11])[O:12][H:13]>>[H:1][C:2]=[C:3]([H:4])[C:5](=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[O:12][H:13],-8.238692486849999
[C:5]([O:6][H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:1][O:2][C:3][H:4]>>[H:1][O:2][C:3]([H:4])[C:5]([O:6][H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-3.16137949148
[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11][O:12][H:13].[H:1][C:2]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11][O:12][H:13],-8.583829760419999
[H:1][C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[H:9]>>[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[H:9].[H:1],3.70818356809
[H:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[C:9][C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[C:13]([H:14])([H:15])[H:16].[H:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[C:9]=[C:10]([H:11])[H:12],1.4050012515
[H:1][O:2][C:3]([H:4])[O:5][C:6](=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1].[O:2]=[C:3]([H:4])[O:5][C:6](=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],0.824237755765
[H:12].[O:1]=[C:2]([H:3])/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[O:11]>>[O:1]=[C:2]([H:3])/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[O:11][H:12],-4.64960726538
[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[H:1][O:2][C:3]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-3.30813100775
[H:4].[O:1]=[C:2]=[C:3]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[O:12][H:13]>>[O:1]=[C:2][C@@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[O:12][H:13],-2.14724987451
[H:1][C:3](=[C:2][C:12](/[C:11](=[C:8]/[C:4]([H:5])([H:6])[H:7])[H:10])([H:13])[H:14])[H:9]>>[H:1][C:2]1=[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11][C:12]1([H:13])[H:14],-1.38072117708
[H:1][C:2]([H:3])[C:4]#[C:5][C:6]([H:7])[C:8]=[C:9]([H:10])[H:11]>>[H:1][C:2]([H:3])[C:4]#[C:5][C:6]#[C:8][C:9]([H:10])[H:11].[H:7],1.95967123793
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[H:12]>>[H:12].[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])[H:11],4.26892035174
[C:1][O:2][C:3]([H:4])[C:5]([H:6])=[C:7].[O:8]>>[C:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]=[O:8],-7.37589781373
[C:6]([H:7])[H:8].[H:1][C:2][O:3][C:4]#[C:5]>>[H:1][C:2][O:3][C:4]#[C:5][C:6]([H:7])[H:8],-7.275789952939999
[C:5]([H:6])=[C:7]([H:8])[C:9]([H:10])([H:11])[H:12].[O:1]=[C:2]([H:3])[H:4]>>[O:1][C:2]([H:3])([H:4])/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12],-1.26764252553
[O:1][O:2][C:3][C:4]([H:5])=[C:6]=[C:7]([H:8])[H:9]>>[C:6]=[C:7]([H:8])[H:9].[O:1][O:2][C:3]#[C:4][H:5],2.89233358413
[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])/[C:9]([H:10])=[C:11]/[C:12]([H:13])([H:14])[H:15]>>[H:15].[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]=[C:12]([H:13])[H:14],1.89757955977
[C:8]([H:9])([H:10])[H:11].[H:1][O:2][C:3]([H:4])=[C:5]([H:6])[H:7]>>[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[H:11],-1.12962288969
[H:1][C:2]([H:3])=[C:4][C:11]([H:12])([H:13])[H:14].[H:5][C:7]([H:6])=[C:8]([H:9])[H:10]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7](=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-1.64678903908
[C:3]([H:4])[O:5][C:6]([H:7])[H:8].[O:1]=[C:2]>>[O:1]=[C:2]=[C:3]([H:4])[O:5][C:6]([H:7])[H:8],-2.18166596909
[O:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12]>>[O:1].[O:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12],0.390179586511
[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])[C:10]#[C:11][H:12].[H:13]>>[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]=[C:11]([H:12])[H:13],-4.06465975192
